US04468399
Following the procedure of Example 1, a reaction mixture was prepared from 1.62 g. of 2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethylamine and 1.94 g. of 2-nitroamino-5-(2-methoxy-4-pyridyl)methyl-4-pyrimidone and 30 ml. of ethanol. The reaction mixture was stirred and heated at refluxing temperature for about 42 hours. The volatile constituents were removed by evaporation and the residue purified by high pressure liquid gradient elution chromatography (silica-ethanol/ethyl acetate/ammonium hydroxide). Fractions containing 2-[2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl]amino-5-(2-methoxy-4-pyridyl)methyl-4-pyrimidone were combined and the solvent removed therefrom. Recrystallization of the resulting residue from a cyclohexane-ether solvent mixture gave 2-[2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl]amino-5-(2-methoxy-4-pyridyl)methyl-4-pyrimidone melting at 79°-80° C.

reactant | 2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethylamine | CN(C)CC=1SC=C(N1)CSCCN | C9H17N3S2
reactant | 2-nitroamino-5-(2-methoxy-4-pyridyl)methyl-4-pyrimidone | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC1=CC(=NC=C1)OC | C11H11N5O4
solvent | ethanol | C(C)O | C2H6O
product | 2-[2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl]amino-5-(2-methoxy-4-pyridyl)methyl-4-pyrimidone | CN(C)CC=1SC=C(N1)CSCCNC1=NC=C(C(N1)=O)CC1=CC(=NC=C1)OC | C20H26N6O2S2
